US07888354B2
(1) Preparation of 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid hydrochloride
To 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester obtained in Example 1-(3) (1.11 g), concentrated hydrochloric acid (7.0 mL) was added at room temperature and stirred at 80° C. for 2 hours. The reaction mixture was concentrated under reduced pressure to give the titled compound (1.08 g) as a light-brown solid.

reactant | 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)C1=CC=C(C=C1)OCCCN1[C@@H](CCC1)C | C20H27N3O3
reactant | hydrochloric acid | 7.0 mL | Cl | ClH
product | 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid hydrochloride | 1.08 g | Cl.C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1N=CC(=C1)C(=O)O | InChI=1S/C18H23N3O3.ClH/c1-14-4-2-9-20(14)10-3-11-24-17-7-5-16(6-8-17)21-13-15(12-19-21)18(22)23;/h5-8,12-14H,2-4,9-11H2,1H3,(H,22,23);1H/t14-;/m1./s1
